US08623879B2
(6-Trifluoromethyl-pyridin-2-yl)-acetic acid ethyl ester
A mixture of caesium carbonate (1.87 g, 5.75 mmol) and tri-t-butylphosphine (107 μL, 0.44 mmol) in dry 1,2 dimethoxyethane (10 mL) was treated with tris-(dibenzylideneacetone)di-palladium (81 mg, 0.09 mmol), 2-Bromo-6-(trifluoromethyl)pyridine (1 g, 4.42 mmol) and diethylmalonate (0.8 mL, 5.3 mmol) under nitrogen atmosphere. The mixture was heated to 150° C. for 30 min in a microwave oven. After cooling to 20° C. the mixture was treated with a saturated solution of ammonium chloride (120 mL) and extracted with ethyl ether (3×80 mL). The organic phase was dried and evaporated to give a crude oil that was purified by flash chromatography eluting with n-hexane/ethyl ether 6/1.

reactant | caesium carbonate | 5.75 mmol, 1.87 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tri-t-butylphosphine | 0.44 mmol, 107 μL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 2-Bromo-6-(trifluoromethyl)pyridine | 4.42 mmol, 1 g | BrC1=NC(=CC=C1)C(F)(F)F | C6H3BrF3N
reactant | diethylmalonate | 5.3 mmol, 0.8 mL | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | ammonium chloride | 120 mL | [Cl-].[NH4+]
solvent | 1,2 dimethoxyethane | 10 mL | COCCOC | C4H10O2
catalyst | tris-(dibenzylideneacetone)di-palladium | 0.09 mmol, 81 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (6-Trifluoromethyl-pyridin-2-yl)-acetic acid ethyl ester | C(C)OC(CC1=NC(=CC=C1)C(F)(F)F)=O | C10H10F3NO2
